US08466181B2
Methyl 6-(4-(1-(4-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinate
A mixture of 1-(4-fluoro-phenyl)-5-(1H-imidazol-4-yl)-4-methyl-1H-[1,2,3]triazole (500 mg, 2.06 mmol), methyl 6-chloronicotinate (353 mg, 2.06 mmol) and potassium carbonate (568 mg, 4.11 mmol) in DMF (10 mL) was stirred under Ar in a sealed flask and heated at 120° C. for 16 h. After cooling to room temperature the mixture was poured into water (150 mL) and the solid that formed was filtered off and dried to afford the title compound (300 mg, 39%) as a light brown solid. MS: m/e=379.3 [M+H]+.

reactant | 1-(4-fluoro-phenyl)-5-(1H-imidazol-4-yl)-4-methyl-1H-[1,2,3]triazole | 2.06 mmol, 500 mg | FC1=CC=C(C=C1)N1N=NC(=C1C=1N=CNC1)C | C12H10FN5
reactant | methyl 6-chloronicotinate | 2.06 mmol, 353 mg | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
reactant | potassium carbonate | 4.11 mmol, 568 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 150 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Methyl 6-(4-(1-(4-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinate | 300 mg, 39% | FC1=CC=C(C=C1)N1N=NC(=C1C=1N=CN(C1)C1=NC=C(C(=O)OC)C=C1)C | C19H15FN6O2
